US08202868B2
N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-3-fluoro-benzamide
0.29 g of 3-fluoro-benzoic acid (2.03 mmol) and 0.7 g of 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (2.03 mmol) were dissolved in 25 ml of dichloromethane. Addition of 1.04 g of diisopropylethylamine (8.04 mmol), 0.19 g of hydroxybenzotriazole (HOBt, 1.4 mmol), and 0.46 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDCl, 2.4 mmol) at 0° C. was followed by stirring the reaction mixture for 16 h at room temperature. 30 ml of dichloromethane were added, the organic layer was washed with aqueous saturated sodium chloride. The aqueous phase was re-extracted once with dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using ethyl acetate and ethyl acetate-methanol (15:1). Fractions containing the product were combined, the solvent was evaporated to yield 0.88 g of the title compound as a white solid.

reactant | 3-fluoro-benzoic acid | 2.03 mmol, 0.29 g | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 2.03 mmol, 0.7 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | diisopropylethylamine | 8.04 mmol, 1.04 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 1.4 mmol, 0.19 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 2.4 mmol, 0.46 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-3-fluoro-benzamide | 0.88 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(C1=CC(=CC=C1)F)=O)C1CCC1 | C27H38FN5O
